US07060827B2
In like manner to the preparation of 2-chloro-5-fluoro-N4-[3-(1H-tetrazol-5-yl)phenyl]-4-pyrimidineamine the reaction of 2,4-dichloro-5-fluoropyrimidine with 3-(2-phenyl-1,3,4-oxadiazol-5-yl)aniline gave 2-chloro-5-fluoro-N4-[3-(2-phenyl-1,3,4-oxadiazol-5-yl)phenyl)-4-pyrimidineamine. 1H NMR (DMSO-d6): δ 10.28 (s, 1H), 8.62 (s, 1H), 8.39 (d, 1H, J=3.3 Hz), 8.11 (m, 2H), 7.98 (bd, 1H, J=6.9 Hz), 7.88 (bd, 1H, J=8.4 Hz), 7.65 (m, 4H); LCMS: purity: 76%; MS (m/e): 76%.

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-(2-phenyl-1,3,4-oxadiazol-5-yl)aniline | C1(=CC=CC=C1)C=1OC(=NN1)C=1C=C(N)C=CC1 | C14H11N3O
product | 2-chloro-5-fluoro-N4-[3-(2-phenyl-1,3,4-oxadiazol-5-yl)phenyl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC(=CC=C1)C1=NN=C(O1)C1=CC=CC=C1)F | C18H11ClFN5O
